US06620977B1
Sodium hydride (1.33 g, 33.3 mmol, 60% in oil) was loaded under argon circumstance in three-necked flask and hexane (20 ml) was added thereto. After stirring for a while, it was allowed to stand and the supernatant was removed by syringe. By repeating this procedure three times, the oil of sodium hydride was removed. After drying in vacuo, anhydrous N,N-dimethylformamide (DMF) (5 ml) was added and the mixture was cooled at 0° C. (S)-4-(2-Hydroxyethyl)-2,2-dimethyl-1,3-dioxolane (4.42 g, 30.25 mmol) in DMF (8 ml) was dropped to the mixture over a one hour period by taking care of the temperature and then the mixture was stirred for 1 hour. Benzyl chloride (3.83 ml, 33.3 mmol) in DMF (3 ml) was dropped to the solution over a one hour period in the range of 0° C. and 5° C. and then the solution was stirred for 4 hours. After stirring water (20 ml) was added to the solution and the solution was extracted with ethyl acetate. The extract was washed with water (40 ml) twice and with saturated brine once, dried on sodium sulfate, filtered and condensed in vacuo. The residue was subjected to silica gel chromatography to give (S)-4-(2-benzyloxyethyl)-2,2-dimethyl-1,3-dioxolane (6.32 g, yield 88%).

reactant | Sodium hydride | 33.3 mmol, 1.33 g | [H-].[Na+]
reactant | hexane | 20 ml | CCCCCC | C6H14
reactant | (S)-4-(2-Hydroxyethyl)-2,2-dimethyl-1,3-dioxolane | 30.25 mmol, 4.42 g | OCC[C@@H]1OC(OC1)(C)C | C7H14O3
reactant | Benzyl chloride | 33.3 mmol, 3.83 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | DMF | 8 ml | CN(C=O)C | C3H7NO
solvent | DMF | 3 ml | CN(C=O)C | C3H7NO
solvent | water | 20 ml | O | H2O
product | (S)-4-(2-benzyloxyethyl)-2,2-dimethyl-1,3-dioxolane | 6.32 g, yield 88% | C(C1=CC=CC=C1)OCC[C@@H]1OC(OC1)(C)C | C14H20O3
